US04041163
N-(5-tetrazolyl)-7-nitro-8-methylthio-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide;
N-(5-tetrazolyl)-7-nitro-8-methyl-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboximide; N-(5-tetrazolyl)-7-nitro-8-n-propyl-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-nitro-8-methoxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-nitro-8-ethoxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-nitro-8-hydroxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-nitro-8-chloro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; and N-(5-tetrazolyl)-7-nitro-8-fluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide.

reactant | N-(5-tetrazolyl)-7-nitro-8-n-propyl-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)CCC)[N+](=O)[O-] | C15H12N8O4S
reactant | N-(5-tetrazolyl)-7-nitro-8-methoxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)OC)[N+](=O)[O-] | C13H8N8O5S
reactant | N-(5-tetrazolyl)-7-nitro-8-ethoxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)OCC)[N+](=O)[O-] | C14H10N8O5S
reactant | N-(5-tetrazolyl)-7-nitro-8-hydroxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)O)[N+](=O)[O-] | C12H6N8O5S
reactant | N-(5-tetrazolyl)-7-nitro-8-chloro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)Cl)[N+](=O)[O-] | C12H5ClN8O4S
reactant | N-(5-tetrazolyl)-7-nitro-8-fluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)F)[N+](=O)[O-] | C12H5FN8O4S
product | N-(5-tetrazolyl)-7-nitro-8-methylthio-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)SC)[N+](=O)[O-] | C13H8N8O4S2
